US07696200B2
A solution of 4-amino-3-nitrobenzoic acid ethyl ester (4.1 g, 19.7 mmol) in acetonitrile (30 mL) was treated with triethylamine (25 mL) and dimethylaminopyridine (0.24 g, 2.0 mmol). Di-tert-butyl dicarbonate (6.5 g, 29.6 mmol) was added dropwise at room temperature over a period of 30 minutes. The reaction mixture was stirred at room temperature overnight. The mixture was diluted with water and dichloromethane. The organic phase was separated, dried over sodium sulfate and the volatiles were then evaporated. The residue was redissolved in dichloromethane (150 mL) and cooled to 0° C. Trifluoroacetic acid (6.0 mL) was added, and the mixture was stirred at 0° C. for 2 hours. The mixture was diluted with saturated NaHCO3 and the organic phase was separated. The aqueous phase was extracted twice with dichloromethane. The combined organic phases were dried over sodium sulfate and evaporated. The residue was purified by flash chromatography (dichloromethane/methanol gradient), yielding 4-tert-butoxycarbonylamino-3-nitro-benzoic acid ethyl ester as a light yellow solid, 3.5 g (57%), MS (ISP): m/e=309.4 (M−H).

reactant | 4-amino-3-nitrobenzoic acid ethyl ester | 19.7 mmol, 4.1 g | C(C)OC(C1=CC(=C(C=C1)N)[N+](=O)[O-])=O | C9H10N2O4
reactant | triethylamine | 25 mL | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | 2.0 mmol, 0.24 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | Di-tert-butyl dicarbonate | 29.6 mmol, 6.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-tert-butoxycarbonylamino-3-nitro-benzoic acid ethyl ester | C(C)OC(C1=CC(=C(C=C1)NC(=O)OC(C)(C)C)[N+](=O)[O-])=O | C14H18N2O6
